US08383644B2
(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-butyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester was synthesized from (S)-2-tert-butoxycarbonylamino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester and (R)-1-phenyl-butane-1-ol according to General Procedure AC. This ester was converted to (3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-butyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid according to General Procedure AB.

reactant | (S)-2-tert-butoxycarbonylamino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NC(=O)OC(C)(C)C)=O | C30H31Cl2NO7
reactant | (R)-1-phenyl-butane-1-ol | C1(=CC=CC=C1)[C@@H](CCC)O | C10H14O
reactant | (3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-butyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)[C@@H](CCC)C3=CC=CC=C3)C(=O)O)OC2)C=CC1Cl | C35H33Cl2NO5
product | (3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-butyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester | COC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)[C@@H](CCC)C3=CC=CC=C3 | C36H35Cl2NO5
